US04933355
5-(2-Aminothiazol-4-ylmethylene)rhodanine-3-acetic acid 1/3 hydrate
A mixture comprising 2.2 g of piperidinium 5-(2-tritylaminothiazol-4-ylmethylene)rhodanine-3-acetate and 30 ml of a 4N dioxane solution of hydrogen chloride was stirred at room temperature for 30 minutes, and the resulting mixture was left to stand overnight. The crystalline product which precipitated out was collected by filtration and washed with dioxane, giving the desired compound as a brownish-orange powder.

reactant | piperidinium 5-(2-tritylaminothiazol-4-ylmethylene)rhodanine-3-acetate | 2.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)[O-])=O.[NH2+]1CCCCC1
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | 5-(2-Aminothiazol-4-ylmethylene)rhodanine-3-acetic acid | NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C9H7N3O3S3
